Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
atrial fibrillation
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
___ y.o male with PMH hypothyroidsm presenting with new onset 
atrial fibrillation with RVR to the 140's. On the morning of 
admission he was on his way into work climbing stairs, when he 
felt chest pain and fluttering. In his clinic he was found to be 
in afib with RVR to 140s, with mild ST depressions in lateral 
leads. CP and flutter resolve within thirty minutes. Patient 
slowed down without meds and the ST changes resolved in the ED. 
ECG irregular in the ED consistent with HR to 90's, ECG and AF. 
Took 325 ASA, and recieved a cardiology consult who recommended 
admission to ___ given symptomatic afib with RVR with 
questionable ischemic changes. Patient notes a red eye flight 
about one week ago, but denies calf pain, DOE, pleuritic chest 
pain.

In the ED, initial vitals were:97.8 85 132/87 16 95% room.  Labs 
notable for D-dimer 175, trop 0.04. CXR with no acute 
cardiopulmonary process.

On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.

Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema,  
syncope or presyncope.
 
Past Medical History:
-Lumbar epidural steroid injection about every 3 months for 
control of spinal stenosis with right leg pain.
-Radioactive iodine for Graves' disease, leading to 
hypothyroidism
-Atrial fibrillation- first episode ___
 
Social History:
___
Family History:
Denies any history of CAD.
Mom- rheumatic HD, DM
Father- DM, gallbladder cancer
Brother- DM

 
Physical ___:
VS: 98, 150/83, 58, 98% RA weight 88.2kg
GENERAL: WDWNM in NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with JVP of 6 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES:
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
 
Pertinent Results:
Labs:
___ 11:50AM   GLUCOSE-102* UREA N-16 CREAT-0.8 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-27 ANION GAP-14
___ 11:50AM   estGFR-Using this
___ 11:50AM   cTropnT-0.04*
___ 11:50AM   CALCIUM-9.7 PHOSPHATE-2.2* MAGNESIUM-2.2
___ 11:50AM   D-DIMER-175
___ 11:50AM   TSH-1.5
___ 11:50AM   WBC-8.0 RBC-5.38 HGB-15.9 HCT-46.8 MCV-87 
MCH-29.7 MCHC-34.1 RDW-12.8
___ 11:50AM   NEUTS-59.4 ___ MONOS-8.8 EOS-4.4* 
BASOS-1.4
___ 11:50AM   PLT COUNT-252
___ 11:50AM   ___ PTT-42.8* ___

Imaging:
CXR ___  
Preliminary Report, FINDINGS: Heart size is borderline enlarged. 
The aorta is tortuous. Mediastinal and hilar contours otherwise 
are unremarkable. The pulmonary vascularity is normal. The lungs 
are clear without focal consolidation. No pleural effusion 
or pneumothorax is present. Kyphosis of the thoracic spine with 
mild anterior wedging of a mid thoracic vertebral body is noted. 
There are multilevel degenerative changes seen within the imaged 
thoracic spine with intervertebral disc space narrowing, 
osteophyte formation, and endplate irregularity.   
IMPRESSION: 
No acute cardiopulmonary process.

ECG Study Date of ___  11:49:34 AMAtrial fibrillation with 
variable ventricular response. Since the previous tracing of 
___ atrial fibrillation is new. Axis is more leftward. 
Otherwise, no change.  
ECG Study Date of ___  1:00:04 ___ Sinus rhythm at lower 
limits of normal rate. Borderline P-R interval prolongation. 
Since the previous tracing of sinus rhythm is now present.  P-R 
interval prolongation is seen. 
 
Brief Hospital Course:
___ y.o male with no significant pmhx presenting with new onset 
atrial fibrilliation with RVR, spontaneously converted.

#Atrial fibrillation- Patient presented from his clinic with new 
onset atrial fibrillation after walking up a flight of stairs. 
He is typically active and hikes every weekend without any 
symptoms. EKG on arrival atrial fibrillation with rate of 90, no 
ST deviations. Patient spontaneously converted in ED to NSR with 
rate in ___. Etiology unclear, but differential includes 
thyroid, ischemia, PE, structural, hypertensive. Patient denies 
any symptoms of PE and D-dimer is negative. TSH checked and 
normal. No signs of heart failure or infection on exam. First 
trop 0.04 and no ischmemia evident on EKG. Possible LAE on EKG.  
Patient denies hypertension, however BP on arrival borderline. 
Patient reports nodding off during the day, possibly consistent 
with sleep apnea.  He denied any social risk factors such as 
signficant alcohol or caffeine use.  Patient started on 325 mg 
daily of aspirin for CHADS2 score of zero, CHADS2VASC of 1 and 
discharged to follow up as an outpatient with ECHO and exercise 
stress test.  Sleep study could also be considered as 
outpatient.

Chronic Issues:
#Hypothyroid- TSH 1.5. Continue levothyroxine 125 mcg daily.

#HLD- Continue simvastatin 40 mg daily.

Transitional Issues:
- outpatient stress test and ECHO
- strict outpatient BP control
- consider sleep study for sleep apnea
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrocodone-Acetaminophen (5mg-500mg) 1 TAB PO Q6H:PRN pain 
2. Levothyroxine Sodium 125 mcg PO DAILY 
3. Lorazepam 0.5 mg PO HS:PRN insomnia 
4. Simvastatin 40 mg PO DAILY 
5. Naproxen 250 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Lorazepam 0.5 mg PO HS:PRN insomnia 
3. Simvastatin 40 mg PO DAILY 
4. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth Qdaily Disp #*30 Tablet 
Refills:*0
5. Hydrocodone-Acetaminophen (5mg-500mg) 1 TAB PO Q6H:PRN pain 
6. Naproxen 250 mg PO Q8H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: atrial fibrilliation
Secondary: hypothyroidism
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dr. ___ was a pleasure to care for you.  You were brought to the 
hospital for palpitations. You were found to be in atrial 
fibrilliation which is a abnormal heart pattern.This resolved on 
its own. You will need an outpatient echocardiogram and cardiac 
stress test. 

Medication changes:
START aspirin 325 mg daily

Please follow up with the outpatient appointments below.
 
Followup Instructions:
___